US08067408B2
N-{[1,6-Diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-N′-{[3′-(4-piperidinyloxy)-3-biphenylyl]methyl}-1,3-benzenedicarboxamide
To a solution of 1,1-dimethylethyl 4-[(3-bromophenyl)oxy]-1-piperidinecarboxylate (0.036 g, 0.100 mmol) in 1,4-dioxane (0.9 mL) and H2O (300 μL) was added N-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-N′-{[3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]methyl}-1,3-benzenedicarboxamide (0.067 g, 0.1 mmol), Pd(Ph3P)4 (4.62 mg, 4.00 μmol), and K2CO3 (0.028 g, 0.200 mmol). This mixture was heated at 130° C. for 15 min. The reaction mixture was concentrated (Glas-Col) and purified with CombiFlash chromatograph. To the resultant material was added DCM (300 μL) and TFA (100 μL, 1.298 mmol) which was then stirred at room temperature for 30 min. The reaction mixture was concentrated (Glas-Col), purified using a Gilson HPLC (with 0.1% TFA), concentrated on a GeneVac EZ-2 and neutralized with an amine cartridge to afford 0.0237 g (33.1%) of the title compound. LC-MS m/z 716 (M+H)+; 1H NMR (400 MHz, CD3OD) δ ppm 1.39 (t, J=6.78 Hz, 3 H) 1.48 (t, J=6.90 Hz, 3 H) 1.80-1.97 (m, 2 H) 1.99-2.24 (m, 5 H) 3.09-3.28 (m, 4 H) 3.41 (t, J=9.29 Hz, 2 H) 3.66 (t, J=11.04 Hz, 2 H) 4.02 (d, J=8.78 Hz, 2 H) 4.33 (br. s., 1 H) 4.42-4.90 (m, 8 H) 6.61-6.85 (m, 1 H) 6.94-7.17 (m, 1 H) 7.21 (br. s, 2 H) 7.31-7.66 (m, 5 H) 8.04 (d, J=7.53 Hz, 2 H) 8.27 (br. s., 1 H) 8.35-8.44 (m, 1 H).

reactant | 1,1-dimethylethyl 4-[(3-bromophenyl)oxy]-1-piperidinecarboxylate | 0.100 mmol, 0.036 g | BrC=1C=C(C=CC1)OC1CCN(CC1)C(=O)OC(C)(C)C | C16H22BrNO3
reactant | N-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-N′-{[3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]methyl}-1,3-benzenedicarboxamide | 0.1 mmol, 0.067 g | C(C)N1N=CC=2C1=NC(=C(C2NC2CCOCC2)CNC(=O)C2=CC(=CC=C2)C(=O)NCC2=CC(=CC=C2)B2OC(C(O2)(C)C)(C)C)CC | C37H47BN6O5
reactant | K2CO3 | 0.200 mmol, 0.028 g | C(=O)([O-])[O-].[K+].[K+]
reactant | TFA | 1.298 mmol, 100 μL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | 1,4-dioxane | 0.9 mL | O1CCOCC1 | C4H8O2
solvent | H2O | 300 μL | O | H2O
catalyst | Pd(Ph3P)4 | 4.00 μmol, 4.62 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | DCM | 300 μL | C(Cl)Cl | CH2Cl2
product | N-{[1,6-Diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-N′-{[3′-(4-piperidinyloxy)-3-biphenylyl]methyl}-1,3-benzenedicarboxamide | 0.0237 g, 33.1% | C(C)N1N=CC=2C1=NC(=C(C2NC2CCOCC2)CNC(=O)C2=CC(=CC=C2)C(=O)NCC=2C=C(C=CC2)C2=CC(=CC=C2)OC2CCNCC2)CC | C42H49N7O4
